US05618827
[2-(5-Methyl-1,2,4-oxadiazol-3-yl)phenyl]carbamoyl Chloride
A solution of 2-(5-methyl-1,2,4-oxadiazol-3-yl)benzeneamine (1.0 g) in dry dichloromethane (20 ml) was added dropwise to a solution of phosgene (14.1 ml) in dichloromethane (50 ml) at 0° under a nitrogen atmosphere. The opaque solution was then allowed to slowly attain room temperature and stirred for 17 h. The reaction mixture was concentrated under vacuo to give a pale yellow solid (1.3 g).

reactant | 2-(5-methyl-1,2,4-oxadiazol-3-yl)benzeneamine | 1.0 g | CC1=NC(=NO1)C1=C(C=CC=C1)N | C9H9N3O
reactant | phosgene | 14.1 ml | C(=O)(Cl)Cl | CCl2O
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | [2-(5-Methyl-1,2,4-oxadiazol-3-yl)phenyl]carbamoyl Chloride | 1.3 g | CC1=NC(=NO1)C1=C(C=CC=C1)NC(=O)Cl | C10H8ClN3O2
